US04705793
A solution of 4-amino-1-(2-chloroethyl)-6,7-dihydro-6-(2-propenyl)pyrazolo[3.4-b]pyrrolo[3,4-e]pyridin-5(1H)-one (15.69 g.) in dry DMF (65 ml.) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (9.65 ml.). The mixture was heated to 110° under nitrogen with stirring for five hours. After cooling, the mixture was poured into water (400 ml.) and the product was extracted into dichloromethane. The extract was washed with brine, dried (Na2SO4) and evaporated at reduced pressure to afford a suspension of crude product in DMF. This was warmed to effect complete dissolution, and water (350 ml.) was added to precipitate the product. After cooling to 0° , the precipitated solid was collected by filtration, washed with water, and dried in vacuo at 50° . In this manner there was obtained 11.09 grams of 4-amino-6,7-dihydro6-(2-propenyl)-1-vinylpyrazolo[3,4-b]pyrrolo[3,4-e]pyridin-5(1H)-one as a light yellow solid: m.p. 190°-191°.

reactant | 4-amino-1-(2-chloroethyl)-6,7-dihydro-6-(2-propenyl)pyrazolo[3.4-b]pyrrolo[3,4-e]pyridin-5(1H)-one | 15.69 g | NC1=C2C(=NC3=C1C(N(C3)CC=C)=O)N(N=C2)CCCl | C13H14ClN5O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 9.65 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 400 ml | O | H2O
reactant | water | 350 ml | O | H2O
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | 4-amino-6,7-dihydro6-(2-propenyl)-1-vinylpyrazolo[3,4-b]pyrrolo[3,4-e]pyridin-5(1H)-one | 11.09 grams | NC1=C2C(=NC3=C1C(N(C3)CC=C)=O)N(N=C2)C=C | C13H13N5O
